US07960409B2
Step 4: 7-(hydroxymethyl)-4-(3-methylphenyl)-2H-chromen-2-one
To a solution of 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylic acid (520 mg, 1.86 mmol) and triethylamine (1.0 mL, 7.4 mmol) in THF (15 mL), cooled at 0° C., isobutylchloroformate (726 uL, 5.6 mmol) was added dropwise. After 1 hour stirring at 0° C. a solution of sodium borohydride in water (353 mg, 9.3 mmol in 6 mL) was added slowly and the mixture was stirred for another hour. The reaction mixture was poured into a saturated ammonium chloride solution and the product was extracted (3×) with ethyl acetate, the combined organic extracts were washed with water and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue obtained was purified by column chromatography (ethyl acetate/hexanes, 50:50) to afford the title compound. 1H NMR (400 MHz, acetone-d6): 7.51-7.39 (m, 5H), 7.37 (d, 1H), 7.32 (d, 1H), 6.29 (s, 1H), 4.79 (d, 2H), 4.57 (t, 1H), 2.46 (s, 3H).

reactant | 4-(3-methylphenyl)-2-oxo-2H-chromene-7-carboxylic acid | 1.86 mmol, 520 mg | CC=1C=C(C=CC1)C1=CC(OC2=CC(=CC=C12)C(=O)O)=O | C17H12O4
reactant | triethylamine | 7.4 mmol, 1.0 mL | C(C)N(CC)CC | C6H15N
reactant | isobutylchloroformate | 5.6 mmol, 726 uL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | water | 9.3 mmol, 6 mL, 353 mg | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-(hydroxymethyl)-4-(3-methylphenyl)-2H-chromen-2-one | OCC1=CC=C2C(=CC(OC2=C1)=O)C1=CC(=CC=C1)C | C17H14O3
